US06057311
a. 2-nitrocinnamyl alcohol
Sodium borohydride (1.15 g, 31.1 mmol) was added portionwise to an ice cooled suspension of trans-2-nitrocinnamaldehyde (5.00 g, 28.2 mmol), and cerium (III) chloride (12.61 g, 33.8 mmol) in methanol (140 ml). After stirring at room temperature for 30 minutes the mixture was poured into saturated aqueous NH4Cl (200 ml), extracted with DCM (3×150 ml) and the extacts dried (MgSO4). Filtration and evaporation of the solvent gave the product. (5.03 g, 100%)

reactant | Sodium borohydride | 31.1 mmol, 1.15 g | [BH4-].[Na+]
reactant | trans-2-nitrocinnamaldehyde | 28.2 mmol, 5.00 g | [N+](=O)([O-])C1=C(/C=C/C=O)C=CC=C1 | C9H7NO3
reactant | cerium (III) chloride | 33.8 mmol, 12.61 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | NH4Cl | 200 ml | [NH4+].[Cl-]
solvent | methanol | 140 ml | CO | CH4O
product | 2-nitrocinnamyl alcohol | [N+](=O)([O-])C1=C(C=CCO)C=CC=C1 | C9H9NO3
